US06455578B1
2,3-dihydro-2-(5-hydroxypentyl)-4H-1-benzopyran-4-one (0.23 g) is dissolved in ethanol 95% (5 ml), and the solution is refluxed under stirring. HCl (6.2 ml) and isoamylnitrite (1.2 ml) are then added drop by drop. Stirring and heating are then stopped and the reaction mixture is allowed to stand for ca. 1 hour. The solvent is evaporated, water is then added and the product extracted with diethyl ether. The ethereal phase is dried by addition of anhydrous Na2SO4. After filtration and evaporation of the solvent an oil is obtained which is purified by chromatography with silica gel column and the mixture diethyl ether:methanol 98:2 as the eluent. 3-hydroxy-2-(5-hydroxypentyl)-4H-1-benzopyran-4-one (99.2 mg) is obtained. By crystallisation in cycloesane or diethyl ether the product in crystalline form is obtained (m.p.=111-112° C.).

reactant | 2,3-dihydro-2-(5-hydroxypentyl)-4H-1-benzopyran-4-one | 0.23 g | OCCCCCC1OC2=C(C(C1)=O)C=CC=C2 | C14H18O3
reactant | HCl | 6.2 ml | Cl | ClH
reactant | isoamylnitrite | 1.2 ml | C(CC(C)C)ON=O | C5H11NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-hydroxy-2-(5-hydroxypentyl)-4H-1-benzopyran-4-one | 99.2 mg | OC1=C(OC2=C(C1=O)C=CC=C2)CCCCCO | C14H16O4
